US07671056B2
1) 8-Bromo-3-iodoquinoline (intermediate)
To a solution of 8-bromoquinoline (commercially available, 1.0 g) in glacial acetic acid (6 mL) was added portionwise, N-iodosuccinimide (1.08 g). The resulting mixture was stirred at 70° C. for 18 hours. The reaction was cooled to room temperature and concentrated on a rotary evaporator. The residue was taken up in CH2Cl2 and washed with saturated aqueous NaHCO3 and brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated on a rotary evaporator. The crude product was purified by flash chromatography on silica using hexane/ethyl acetate to give 0.74 g of the desired product as a white solid; MS (ES) m/z (relative intensity): 334 (M+H)+ (100).

reactant | 8-bromoquinoline | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | N-iodosuccinimide | 1.08 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 8-Bromo-3-iodoquinoline | 0.74 g | BrC=1C=CC=C2C=C(C=NC12)I | C9H5BrIN
